US07145012B2
Preparation of 2-(4-Chloro-phenyl)-5-cyclopentyl-1-(2-fluoro-phenyl)-5 6-dihydro-1H-pyrrolo[3,4-d]imidazol-4-one (4A-1)
A mixture of 2-(4-chloro-phenyl)-5-cyclopentylaminomethyl-1-(2-fluoro-phenyl)-1H-imidazole-4-carboxylic acid I-5k (1.2 g, 2.59 mmol), EDC (994 mg, 5.18 mmol), HOAt (704 mg, 5.18 mmol), and triethylamine (1.1 ml, 7.76 mmol) in CH2Cl2 (200 ml) was stirred for 17 hours at room temperature. The reaction mixture was washed with sat'd aq NaHCO3 and sat'd aq. NaCl, dried and concentrated in vacuo. The crude residue was purified on SiO2-gel using a solvent gradient of 30% EtOAc/hexanes to 60% EtOAc/hexanes to give 4A-1 as a white solid (752 mg, 73%): +APCI MS (M+1) 396.2; 1H NMR (CDCl3): δ 7.61–7.59 (m, 2H), 7.42–7.37 (m, 6H), 4.60 (m, 1H), 4.50 (s, 2H), 2.0 (m, 2H), 1.8–1.65 (m, 6H).

reactant | 2-(4-chloro-phenyl)-5-cyclopentylaminomethyl-1-(2-fluoro-phenyl)-1H-imidazole-4-carboxylic acid | 2.59 mmol, 1.2 g | ClC1=CC=C(C=C1)C=1N(C(=C(N1)C(=O)O)CNC1CCCC1)C1=C(C=CC=C1)F | C22H21ClFN3O2
reactant | EDC | 5.18 mmol, 994 mg
reactant | HOAt | 5.18 mmol, 704 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | triethylamine | 7.76 mmol, 1.1 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Chloro-phenyl)-5-cyclopentyl-1-(2-fluoro-phenyl)-5 6-dihydro-1H-pyrrolo[3,4-d]imidazol-4-one | 752 mg, 73% | ClC1=CC=C(C=C1)C1=NC2=C(N1C1=C(C=CC=C1)F)CN(C2=O)C2CCCC2 | C22H19ClFN3O
